US04075241
β-Phenyl-3-(dimethylamino)butyl 3,4,5-trimethoxybenzoate hydrochloride
The title compound is prepared from ethyl 2-phenyl-3-dimethylaminobutyrate and lithium aluminum hydride according to the procedure of Example 2 followed by reaction with 3,4,5-trimethoxybenzoyl chloride according to the procedure of Example 3. Fractional crystallization from isopropanol gives the β-isomer as the main product. It melts at 165°-166° C.

reactant | ethyl 2-phenyl-3-dimethylaminobutyrate | C1(=CC=CC=C1)C(C(=O)OCC)C(C)N(C)C | C14H21NO2
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 3,4,5-trimethoxybenzoyl chloride | COC=1C=C(C(=O)Cl)C=C(C1OC)OC | C10H11ClO4
product | β-Phenyl-3-(dimethylamino)butyl 3,4,5-trimethoxybenzoate hydrochloride | Cl.COC=1C=C(C(=O)OCC(C(C)N(C)C)C2=CC=CC=C2)C=C(C1OC)OC | InChI=1S/C22H29NO5.ClH/c1-15(23(2)3)18(16-10-8-7-9-11-16)14-28-22(24)17-12-19(25-4)21(27-6)20(13-17)26-5;/h7-13,15,18H,14H2,1-6H3;1H
